US09169249B2
Preparation of Hexahydro-5,5,8-trimethylindolizin-7(1H)-one
Hexahydro-5,5-dimethylindolizin-7(1H)-one (racemic) (1.41 g, 8.43 mmol) was dissolved in dry THF (50 ml); the flask was flushed with nitrogen and cooled to −78° C. LDA (5.9 ml, 11.8 mmol) was added via syringe and stirred for 30 minutes. Subsequently, neat methyl iodide (1.30 ml, 21.1 mmol) was added via syringe. The clear, pale yellow solution was stirred overnight and allowed to warm to room temperature. The reaction was then quenched with a saturated NH4Cl solution and extracted with ethyl acetate (3×40 ml). The organic phases were passed through a plug of MgSO4 and solvents were evaporated in vacuo. The crude product (849 mg) was obtained in form of a yellow-brown oil and used without further purification in the next step.

reactant | Hexahydro-5,5-dimethylindolizin-7(1H)-one | 8.43 mmol, 1.41 g | CC1(N2CCCC2CC(C1)=O)C | C10H17NO
reactant | LDA | 11.8 mmol, 5.9 ml | [Li+].CC(C)[N-]C(C)C
reactant | methyl iodide | 21.1 mmol, 1.30 ml | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Hexahydro-5,5,8-trimethylindolizin-7(1H)-one | 849 mg | CC1(N2CCCC2C(C(C1)=O)C)C | C11H19NO
